US07705007B2
Ethanesulfonyl-piperazine was prepared from 1-tert-butyloxycarbonyl-piperazine and ethylsulfonyl chloride in an analogous manner as described for the preparation of (3,5-dimethyl-isoxazol-4-yl)-piperazin-1-yl-methanone in example 41.

reactant | 1-tert-butyloxycarbonyl-piperazine | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | ethylsulfonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | (3,5-dimethyl-isoxazol-4-yl)-piperazin-1-yl-methanone | CC1=NOC(=C1C(=O)N1CCNCC1)C | C10H15N3O2
product | Ethanesulfonyl-piperazine | C(C)S(=O)(=O)N1CCNCC1 | C6H14N2O2S
